US06826033B2
A mixture of tert-butyl N-[(1S)-2-hydroxy-1-(4-nitrobenzyl)ethyl]carbamate (22.3 g), 2,2-dimethoxypropane (46.3 ml), p-toluenesulfonic acid monohydrate (1.43 g) and dichloromethane (200 ml) was stirred at room temperature for 15 hours. The reaction mixture was washed with saturated aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with isopropyl ether to give tert-butyl (S)-4-(4-nitrobenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate (16.9 g) as a pale yellow powder.

reactant | tert-butyl N-[(1S)-2-hydroxy-1-(4-nitrobenzyl)ethyl]carbamate | 22.3 g | OC[C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C14H20N2O5
reactant | 2,2-dimethoxypropane | 46.3 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 1.43 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-butyl (S)-4-(4-nitrobenzyl)-2,2-dimethyl-1,3-oxazolidine-3-carboxylate | 16.9 g | [N+](=O)([O-])C1=CC=C(C[C@@H]2N(C(OC2)(C)C)C(=O)OC(C)(C)C)C=C1 | C17H24N2O5
